US05770595
This example illustrates a synthetic protocol for inventive compound no. 3522 (see above for chemical name and formula). To a suspension of magnesium (3.10 g, 129 mmol) and a crystal of iodine in THF (10 ml) was added 10-undecenyl bromide (see: Syn. Comm. 1984, 14, 591-597) (6.00 g, 25.8 mmol) in THF (20 ml) over 40 minutes. The resuling reaction mixture was stirred for a further 30 minutes after the addition was complete. The solution was added via a canula over 50 minutes to a suspension of copper iodide (0.50 g, 2.58 mmol) and 1-bromo-6-chloro hexane (6.00 ml, 40.0 mmol) in THF (20 ml) and stirred at 25° C. for 16 hours. Sulfuric acid (1.0M, 50 ml) was added, extracted with diethyl ether (2×60 ml) and the organic solvent was dried over magnesium sulfate and evaporated. The residue was distilled at 0.75 mmHg, resulting in 1.78 g of 16-heptadecenyl chloride as a colourless liquid (25% yield, b.p. 130°-135° C.).

reactant | magnesium | 129 mmol, 3.10 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 10-undecenyl bromide | 25.8 mmol, 6.00 g | C(CCCCCCCCC=C)Br | C11H21Br
reactant | 1-bromo-6-chloro hexane | 40.0 mmol, 6.00 ml | BrCCCCCCCl | C6H12BrCl
reactant | Sulfuric acid | 1.0M, 50 ml | S(O)(O)(=O)=O | H2O4S
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | copper iodide | 2.58 mmol, 0.50 g | [Cu](I)I
product | 16-heptadecenyl chloride | 1.78 g, 25% yield | C(CCCCCCCCCCCCCCC=C)Cl | C17H33Cl
